US07320994B2
{4-Amino-2-[1-(3,5-bistrifluoromethylbenzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chlorophenyl)-methanone hemihydrate
Dissolve {4-amino-2-[1-(3,5-bistrifluoromethylbenzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chlorophenyl)-methanone (582 g, 0.97 mol) in ethyl acetate (1880 mL), heptane (1990 mL) and water (90 mL) at 70° C. Cool to room temperature and stir for 18.5 hours. Add heptane (3980 mL) dropwise over 4 hours. Filter and dry in a vacuum oven at 40° C. for approximately 15 hours to give the title compound. Kf=1.52%.

reactant | {4-amino-2-[1-(3,5-bistrifluoromethylbenzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chlorophenyl)-methanone | 0.97 mol, 582 g | NC1=C(C(=NC=C1)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)C1=C(C=CC=C1)Cl | C29H18ClF6N5O
solvent | ethyl acetate | 1880 mL | C(C)(=O)OCC | C4H8O2
solvent | heptane | 1990 mL | CCCCCCC | C7H16
solvent | water | 90 mL | O | H2O
solvent | heptane | 3980 mL | CCCCCCC | C7H16
product | {4-Amino-2-[1-(3,5-bistrifluoromethylbenzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chlorophenyl)-methanone hemihydrate | O.NC1=C(C(=NC=C1)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)C1=C(C=CC=C1)Cl.NC1=C(C(=NC=C1)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)C1=C(C=CC=C1)Cl | InChI=1S/2C29H18ClF6N5O.H2O/c2*30-21-9-5-4-8-20(21)27(42)23-22(37)10-11-38-24(23)25-26(17-6-2-1-3-7-17)41(40-39-25)15-16-12-18(28(31,32)33)14-19(13-16)29(34,35)36;/h2*1-14H,15H2,(H2,37,38);1H2
